US04958029
N-benzyl-5,6-dihydroxyisoindoline hydrobromide
To 5.38 g (20 mmol) of N-benzyl-5,6-dimethoxyisoindoline, 50 ml of 48% hydrobromic acid was added, and the mixture was heated at reflux for 5 hours at an external temperature of from 110° to 125° C. After cooling, the precipitated crystals were collected by filtration and washed with 5 ml of water and 10 ml of acetone to obtain 6.36 g of the above identified compound as a grayish white powder. The powder was dissolved in 150 ml of hot water, and the solution was subjected to decolorization with 1.0 g of active carbon and then cooled with ice to obtain 4.75 g of prism crystals.

reactant | N-benzyl-5,6-dimethoxyisoindoline | 20 mmol, 5.38 g | C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)OC)OC | C17H19NO2
reactant | hydrobromic acid | 50 ml | Br | BrH
solvent | water | 150 ml | O | H2O
product | N-benzyl-5,6-dihydroxyisoindoline hydrobromide | Br.C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)O)O | InChI=1S/C15H15NO2.BrH/c17-14-6-12-9-16(10-13(12)7-15(14)18)8-11-4-2-1-3-5-11;/h1-7,17-18H,8-10H2;1H
